US06949553B2
Synthesis of 9Z-N-[2-(1-methylpyrrolidin-2-yl)ethyl]oleamide (Compound 5)
Toluene (18 ml), dried using MS 4A, was mixed with 12.3 ml of a n-hexane solution of 15% Me3Al. With the mixture being cooled in an ice-methanol bath, 2.42 ml (16.7 mmols) of 2-(2-aminoethyl)-1-methylpyrrolidine was added dropwise over about 5 minutes. The 2-(2-aminoethyl)-1-methylpyrrolidine was finally washed using 2 ml of toluene. After stirring for 20 minutes, the temperature was raised to room temperature, and 7 ml of a toluene solution of 5.0 g (16.9 mmols) of oleic acid methyl ester was added dropwise over 2 minutes. After stirring for 2.5 hours at 70° C., the mixture was cooled with ice, and 30 ml of 0.67N hydrochloric acid was added dropwise. An aqueous solution of 1N NaOH (about 100 ml) was added, and the mixture was extracted with about 100 ml of ethyl acetate. At this time, the pH of the aqueous layer was 9 to 10. The organic layer was washed twice with 20 ml of a saturated aqueous solution of sodium chloride. After this layer was dried over anhydrous sodium sulfate, it was concentrated under reduced pressure on a 32° C. water bath to obtain the captioned compound. This compound was subjected to silica gel column chromatography (BW·80S 150 g, FUJISILYSIA, mobile phase: CHCl3:MeOH (9:1→4:1→3:1 (V/V))) for purification. The purified compound was concentrated under reduced pressure on a 35° C. water bath to obtain 4.09 g of a pale yellow liquid (10.4 mmols, yield 62%). NMR confirmed this product to have the following structure:

reactant | 2-(2-aminoethyl)-1-methylpyrrolidine | 16.7 mmols, 2.42 ml | NCCC1N(CCC1)C | C7H16N2
reactant | oleic acid methyl ester | 16.9 mmols, 5.0 g | COC(CCCCCCC\C=C/CCCCCCCC)=O | C19H36O2
reactant | hydrochloric acid | 0.67N, 30 ml | Cl | ClH
reactant | NaOH | 1N, about 100 ml | [OH-].[Na+]
solvent | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
product | 9Z-N-[2-(1-methylpyrrolidin-2-yl)ethyl]oleamide | 10.4 mmols, 4.09 g, yield 62% | CN1C(CCC1)CCNC(CCCCCCC\C=C/CCCCCCCC)=O | C25H48N2O
